.subckt nor2i_x1 A1 A2 X VDD VSS
XMPA0 pmid_M0 A1 VDD VDD pmos w=2u l=100n
XMPB0 X A2 pmid_M0 VDD pmos w=2u l=100n
XMNA0 X A1 VSS VSS nmos w=1u l=100n
XMNB0 X A2 VSS VSS nmos w=1u l=100n
.ends nor2i_x1
